US07893304B2
1,10-Dodecanediol (2 g) was dissolved in 25 ml of cyclohexane, and 57% hydrobromic acid solution (25 ml) was added to this solution. The reaction mixture was refluxed for six hours while stirring. After the reaction, the mixture was extracted three times with diethyl ether. The organic layer was neutralized with saturated sodium hydrogen carbonate solution, washed with saline solution, dried over magnesium sulfate, and filtered, and the solvent was distilled off under reduced pressure. Purification of the residue by silica gel flash chromatography (hexane:ethyl acetate=7:3) gave 12-bromododecan-1-ol as white crystals at a 73% yield.

reactant | 1,10-Dodecanediol | 2 g | C(CCCCCCCCC(CC)O)O | C12H26O2
reactant | hydrobromic acid | 25 ml | Br | BrH
solvent | cyclohexane | 25 ml | C1CCCCC1 | C6H12
product | 12-bromododecan-1-ol | 73% yield | BrCCCCCCCCCCCCO | C12H25BrO
